US07538109B2
3) 3-(1-Bromo-ethyl)-1-methyl-1H-quinoxalin-2-one
To a mixture of a 3-ethyl-1-methyl-1H-quinoxalin-2-one (1 g) and anhydrous sodium acetate (0.523 g) in glacial AcOH (10 mL) was added dropwise over 10 min. a solution of bromine (0.273 mL) in glacial AcOH (6 mL). The resulting pale yellow suspension was stirred at rt under nitrogen for 2 h, cooled to 0° C., filtered and washed with cold-water to give the title compound as a pale yellow solid.

reactant | 3-ethyl-1-methyl-1H-quinoxalin-2-one | 1 g | C(C)C=1C(N(C2=CC=CC=C2N1)C)=O | C11H12N2O
reactant | sodium acetate | 0.523 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 0.273 mL | BrBr | Br2
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
solvent | AcOH | 6 mL | CC(=O)O | C2H4O2
product | 3-(1-Bromo-ethyl)-1-methyl-1H-quinoxalin-2-one | BrC(C)C=1C(N(C2=CC=CC=C2N1)C)=O | C11H11BrN2O
